US07884109B2
2-(1H-Benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one.
trans-4-(2-(1H-benzo[d]imidazol-1-yl)-8-oxo-7,8-dihydropurin-9-yl)cyclohexyl 1H-imidazole-1-carboxylate (30 mg) was dissolved in DMSO (6 mL) and treated with 1N HCl (5 ml) at 50° C. for 3 hours. The mixture was diluted with EtOAc and washed with brine three times. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo to obtain 16 mg of the title compound. 1H-NMR (300 MHz, CDCl3) δ 10.0 (s, 1H), 8.9 (dd, 1H), 8.2 (s, 1H), 7.9 (dd, 1H), 7.6 (dd, 2H), 4.4 (m, 1H), 4.1 (s, 1H), 2.9 (m, 2H), 2.0 (m, 2H), 1.6 (m, 4H).

reactant | trans-4-(2-(1H-benzo[d]imidazol-1-yl)-8-oxo-7,8-dihydropurin-9-yl)cyclohexyl 1H-imidazole-1-carboxylate | 30 mg | N1(C=NC=C1)C(=O)O[C@@H]1CC[C@H](CC1)N1C2=NC(=NC=C2NC1=O)N1C=NC2=C1C=CC=C2 | C22H20N8O3
reactant | HCl | 1N, 5 ml | Cl | ClH
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1H-Benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one | 16 mg | N1(C=NC2=C1C=CC=C2)C2=NC=C1NC(N(C1=N2)[C@@H]2CC[C@H](CC2)O)=O | C18H18N6O2
